US05631257
1,1-Dimethyl-4-(benzoxazol-2-yl)homopiperazinium iodide
A 200 mg portion of 2-(4-methyl-1-homopiperazinyl)-benzoxazole was dissolved in 5 ml of tetrahydrofuran (THF). Under cooling with ice, 0.064 ml of methyl iodide was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 2 hours at room temperature. The reaction solution was concentrated under a reduced pressure, and 5 ml of acetone was added to the resulting residue. The precipitate thus formed was collected by filtration, washed with acetone and then dried to obtain 320 mg of the title compound.

reactant | 2-(4-methyl-1-homopiperazinyl)-benzoxazole | CN1CCN(CCC1)C=1OC2=C(N1)C=CC=C2 | C13H17N3O
reactant | methyl iodide | 0.064 ml | CI | CH3I
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1,1-Dimethyl-4-(benzoxazol-2-yl)homopiperazinium iodide | 320 mg | [I-].C[N+]1(CCN(CCC1)C=1OC2=C(N1)C=CC=C2)C | InChI=1S/C14H20N3O.HI/c1-17(2)10-5-8-16(9-11-17)14-15-12-6-3-4-7-13(12)18-14;/h3-4,6-7H,5,8-11H2,1-2H3;1H/q+1;/p-1
